** sch_path: /home/nz2xzhkzfeewkgbu/KiCAD/xschem-mcp-server/schematics/rc1/schematic.sch
**.subckt schematic
V1 GND in AC 1
R1 in out 1k m=1
C1 out GND 100n m=1
**.ends
.GLOBAL GND
.end
